US06251926B1
After a mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (500 mg), ethyl 4-oxo-4-(2-pyridyl)butyrate (367 mg), acetic acid (0.276 ml), sodium acetate (264 mg) and ethanol (20 ml) was heated to reflux for 20 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyrate (600 mg, yield 75%) as a colorless oil from an ethyl acetate-hexane (2:7, v/v)-eluted fraction.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 500 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
reactant | ethyl 4-oxo-4-(2-pyridyl)butyrate | 367 mg | O=C(CCC(=O)OCC)C1=NC=CC=C1 | C11H13NO3
reactant | acetic acid | 0.276 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 264 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyrate | 600 mg, yield 75% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)OCC)\C2=NC=CC=C2)C=C1 | C29H29N3O5
